US08030334B2
2-aminophenylacetonitrile (5.0 g, 37.1 mmol) and nicotinoyl chloride (7.5 g, 40.8 mmol) are taken up in dry dichloromethane (200 mL) and diisopropylethylamine (12.1 g, 92.7 mmol) is added while cooling the mixture with a cold water bath. The mixture is stirred overnight, whereupon it is washed twice with saturated aqueous sodium bicarbonate. The combined aqueous layer is back-extracted with ethyl acetate. The combined organic phase is dried over MgSO4 and concentrated in vacuo to give a residue, which is purified by silica gel flash chromatography (dichloromethane-methanol, 1:0 to 19:1) to give N-(2-cyanomethyl-phenyl)-nicotinamide as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 4.02 (s, 2H), 7.32-7.37 (m, 1H), 7.39-7.44 (m, 2H), 7.50 (d, J=7.1 Hz, 1H), 7.59 (dd, J=8.1, 4.8 Hz, 1H), 8.30-8.33 (m, 1H), 8.78 (dd, J=4.8, 1.5 Hz, 1H), 9.14 (d, J=1.8 Hz, 1H), 10.36 (s, 1H).

reactant | 2-aminophenylacetonitrile | 37.1 mmol, 5.0 g | NC1=C(C=CC=C1)CC#N | C8H8N2
reactant | nicotinoyl chloride | 40.8 mmol, 7.5 g | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
reactant | diisopropylethylamine | 92.7 mmol, 12.1 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | N-(2-cyanomethyl-phenyl)-nicotinamide | C(#N)CC1=C(C=CC=C1)NC(C1=CN=CC=C1)=O | C14H11N3O
